US04352798
Methyl 11α-cyclohexylamino-3α-hydroxy-5β-androstane-17β-carboxylate
Cyclohexanone (2.9 ml) and sodium cyanoborohydride (2.512 g) were added to a stirred solution of methyl 11α-amino-3α-hydroxy-5β-androstane-17β-carboxylate (2.505 g) in ethanol (30 ml). After 5 h the mixture was diluted with 5% NaHCO3 solution and extracted with ether (×2). The extract was washed with water (×2), dried Na2SO4) and evaporated to leave a froth (2.544 g). A sample (0.39 g) was purified by preparative t.l.c. using CHCl3 :MeOH (19:1) to give the title compound [α]D -9°, νmax 1725 cm-1.

reactant | Cyclohexanone | 2.9 ml | C1(CCCCC1)=O | C6H10O
reactant | sodium cyanoborohydride | 2.512 g | C(#N)[BH3-].[Na+]
reactant | methyl 11α-amino-3α-hydroxy-5β-androstane-17β-carboxylate | 2.505 g | N[C@H]1[C@@H]2[C@]3(CC[C@H](C[C@H]3CC[C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)C(=O)OC)O)C | C21H35NO3
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | Methyl 11α-cyclohexylamino-3α-hydroxy-5β-androstane-17β-carboxylate | C1(CCCCC1)N[C@H]1[C@@H]2[C@]3(CC[C@H](C[C@H]3CC[C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)C(=O)OC)O)C | C27H45NO3
